US07749992B2
Synthesis of Isopropyl 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-cyano-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate
Purge with nitrogen, a solution of isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate (0.074 g, 0.124 mmol) and zinc cyamide (0.014 g, 0.124 mmol) in N,N-dimethylformamide (2 mL) in a 10 mL microwave vial. Add tetrakis(triphenylphosphine)palladium (0) (0.0043 g, 0.0037 mmol) and irradiate the mixture at 175° C. for 0.5 h (60-80 Watts). Add a second portion of zinc cyamide (0.014 g, 0.124 mmol) and tetrakis(triphenylphosphine) palladium (0) (0.0043 g, 0.0037 mmol) and continue irradiating for 8 min. Cool the mixture to room temperature and dilute with ethyl acetate (35 mL) and wash with water (3×25 mL) and brine (25 mL each), then dry the organic layer over sodium sulfate, filter and remove the solvent under reduced pressure. Purify the residue using chromatography on silica gel, eluting with hexanes/ethyl acetate (60:40), to provide the title compound as a crushable white foam (0.034 g, 51%): ESI MS 542 (M+H).

reactant | isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-bromo-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.124 mmol, 0.074 g | C(C)(C)OC(=O)N1C2=C(C(CCC1)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C=CC(=C2)Br | C25H25BrF6N2O3
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 35 mL | C(C)(=O)OCC | C4H8O2
catalyst | zinc | [Zn] | Zn
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0037 mmol, 0.0043 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.0037 mmol, 0.0043 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | Isopropyl 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-8-cyano-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 0.034 g, 51% | C(C)(=O)N(C1C2=C(N(CCC1)C(=O)OC(C)C)C=C(C=C2)C#N)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C26H25F6N3O3
